US05110955
A solution of 4.17 g (15 mmol) of (E)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-penten-1-ol in pyridine (10 ml) and acetic anhydride (2 ml) was stirred at room temperature for 5 hours and thereafter poured into ice-cold 2N hydrochloric acid solution. The mixture was extracted with ether. The combined extracts were washed with water, dried and freed from solvent; the residue obtained was purified on silica gel with hexane/ethyl acetate (95:5), yielding 3.8 g of (E)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate as a colourless oil.

reactant | (E)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-penten-1-ol | 15 mmol, 4.17 g | COC1=C(C(=C(C(=C1C)C)OC)C)CC/C(=C/CO)/C | C17H26O3
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (E)-5-(2,5-dimethoxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate | 3.8 g | C(C)(=O)OC\C=C(\CCC1=C(C(=C(C(=C1C)OC)C)C)OC)/C | C19H28O4
